US04263311
The benzoin (0.075 mole) was dissolved in 80 ml. of alcohol and 20 g. of tin (20 mesh) was added. The mixture was gently heated and a solution containing 28 ml. of concentrated hydrochloric acid, 0.8 g. of anhydrous cupric sulfate and 0.5 ml. of water was added. The reaction mixture was refluxed until thin layer chromatography no longer detected the presence of starting material. The granular tin was removed by filtration and the filtrate was evaporated to an oil which was diluted with water to 400 ml. and was extracted with chloroform. The organic extract was washed with 5% aqueous sodium carbonate solution (45 ml.×3), with water (45 ml.×2) and with brine; it was dried over anhydrous magnesium sulfate and evaporated to obtain desoxybenzoin.

reactant | benzoin | 0.075 mole | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | tin | [Sn] | Sn
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | desoxybenzoin | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
